US04739066
In a mixture of 3 ml of ethanol and 2 ml of 1N aqueous sodium hydroxide solution is dissolved 55 mg of ethyl 3(R)-(5-benzyloxycarbonylamino-1-ethoxycarbonylpentyl)amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate.hydrochloride as obtained in Example 50, and the solution is allowed to stand at room temperature for 1 hour. Water(50 ml) is added to the reaction solution, and after the mixture is extracted with 20 ml of ethyl ether, the aqueous layer is adjusted to pH 4 with 1N hydrochloric acid. Ammonium chloride is added to the solution until it becomes saturated, and the aqueous layer is extracted ten times with 20 ml of ethyl acetate. The extract is washed with a small amount of water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 40 mg of 3(R)-(5-benzyloxycarbonylamino-1-carboxypentyl)amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid as a colorless powder.

reactant | ethyl 3(R)-(5-benzyloxycarbonylamino-1-ethoxycarbonylpentyl)amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate.hydrochloride | 55 mg | Cl.C(C1=CC=CC=C1)OC(=O)NCCCCC(C(=O)OCC)N[C@H]1CSC2=C(N(C1=O)CC(=O)OCC)C=CC=C2
reactant | Water | 50 ml | O | H2O
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
product | 3(R)-(5-benzyloxycarbonylamino-1-carboxypentyl)amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid | 40 mg | C(C1=CC=CC=C1)OC(=O)NCCCCC(C(=O)O)N[C@H]1CSC2=C(N(C1=O)CC(=O)O)C=CC=C2 | C25H29N3O7S
